US08669234B2
3-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester:
Following the procedure used to prepare compound 3-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester, except that 3-[2-(4-bromo-phenyl)-2-oxo-ethylcarbamoyl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester was used instead of 3-[2-(4-bromo-phenyl)-2-oxo-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | 3-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)C=1NC(=CN1)C1=CC=C(C=C1)Br | C18H22BrN3O2
reactant | 3-[2-(4-bromo-phenyl)-2-oxo-ethylcarbamoyl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CCC(C1C(NCC(=O)C1=CC=C(C=C1)Br)=O)C2 | C20H25BrN2O4
product | 3-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CCC(C1C=1NC(=CN1)C1=CC=C(C=C1)Br)C2 | C20H24BrN3O2
